US08877744B2
A dried pressure tube was charged with (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one (intermediate B6″.1) (203 mg, 491 μmol), 2-methyl-4-((trimethylsilyl)ethynyl)thiazole (115 mg, 590 μmol), and N,N-dimethylformamide (3 ml) flushed with nitrogen (solution 1). Another dried pressure tube was flushed with argon, thereafter, successively N,N-dimethylformamide (3 ml), bis(triphenylphosphine) palladium(II)chloride (24.6 mg, 34.4 μmol), triphenylphoshine (5.2 mg, 19.7 μmol), copper(I)iodide (1.9 mg, 9.8 μmol), triethylamine (249 mg, 2.46 mmol), and tetrabutylammoniumiodide (185 mg, 491 μmol) were added. The mixture was heated to 40° C., and solution 1 was added dropwise. The temperature was raised to 60° C. and stirring was continued for 16 hours. For the workup, the reaction mixture was evaporated at reduced pressure and the residue directly purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 50:50 as the eluent. The (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one (182 mg, 91% yield) was obtained as a white foam. MS (ISP): m/z=409.3 [M+H]+.

reactant | (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one | 491 μmol, 203 mg | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)I)F)F | C14H15F3INO2
reactant | 2-methyl-4-((trimethylsilyl)ethynyl)thiazole | 590 μmol, 115 mg | CC=1SC=C(N1)C#C[Si](C)(C)C | C9H13NSSi
reactant | triethylamine | 2.46 mmol, 249 mg | C(C)N(CC)CC | C6H15N
catalyst | tetrabutylammoniumiodide | 491 μmol, 185 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine) palladium(II)chloride | 34.4 μmol, 24.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 9.8 μmol, 1.9 mg | [Cu]I
catalyst | triphenylphoshine | 19.7 μmol, 5.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (R)-6,6-difluoro-5-[2-fluoro-5-(2-methyl-thiazol-4-ylethynyl)-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one | 182 mg, 91% yield | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)C#CC=1N=C(SC1)C)F)F | C20H19F3N2O2S
